US05631401
N-Cyclopentylmethyl-N-(4-phenoxybenzyl)amine
4-Phenoxybenzaldehyde (3.0 g, 15.1 mmol) and cyclopentylmethylamine (1.49 g, 15.1 mmol) were dissolved in methanol (85 mL) under nitrogen at room temperature. Sodium cyanoborohydride (0.95 g, 15.1 mmol) was added, and stirring was continued for 48 hours. The solvent was evaporated, and the residue was suspended in ether, washed with brine, and dried over Na2SO4. The ether was evaporated, and the crude product was chromatographed on silica gel eluting with 3% methanol in methylene chloride to provide 3.4 g (80%) of the title compound as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 1.10-1.24 (m, 2H), 1.45-1.67 (m, 2H), 1.71-1.90 (m, 3H), 2.06 (p, J=7.5 Hz, 1H), 2.58 (d, J=7.5 Hz, 2H), 3.79 (s, 2H), 6.95-7.05 (m, 4H) 7.09 (tt, J=7.5, 1.5 Hz, 1H), 7.28-7.38 (m, 4H). MS (DCl/NH3) m/e 282 (M+H)+.

reactant | 4-Phenoxybenzaldehyde | 15.1 mmol, 3.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | cyclopentylmethylamine | 15.1 mmol, 1.49 g | C1(CCCC1)CN | C6H13N
reactant | Sodium cyanoborohydride | 15.1 mmol, 0.95 g | C(#N)[BH3-].[Na+]
solvent | methanol | 85 mL | CO | CH4O
product | N-Cyclopentylmethyl-N-(4-phenoxybenzyl)amine | 3.4 g, 80% | C1(CCCC1)CNCC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H23NO
